US04654360
1-Benzyl-2-(2-aminoethylamino)-3-phenylsulfonylindole dihydrochloride
A suspension of 1-benzyl-2-chloro-3-phenylsulfonylindole (1.0 g, 2.6 mmol) in ethylene diamine (10 ml) was heated at 80° for 1 hour. Water was added to the solution and the aqueous phase was decanted from the gummy material which separated after standing for 20 min. To this gum was added excess ethereal hydrogen chloride followed by dichloromethane. The gelatinous solid which formed was collected by filtration, washed with ethyl acetate and dried to give a solid. This solid was recrystallized from dichloromethane to give the title compound.

reactant | 1-benzyl-2-chloro-3-phenylsulfonylindole | 2.6 mmol, 1.0 g | C(C1=CC=CC=C1)N1C(=C(C2=CC=CC=C12)S(=O)(=O)C1=CC=CC=C1)Cl | C21H16ClNO2S
reactant | Water | O | H2O
reactant | ethylene diamine | 10 ml | C(CN)N | C2H8N2
product | 1-Benzyl-2-(2-aminoethylamino)-3-phenylsulfonylindole dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)N1C(=C(C2=CC=CC=C12)S(=O)(=O)C1=CC=CC=C1)NCCN | InChI=1S/C23H23N3O2S.2ClH/c24-15-16-25-23-22(29(27,28)19-11-5-2-6-12-19)20-13-7-8-14-21(20)26(23)17-18-9-3-1-4-10-18;;/h1-14,25H,15-17,24H2;2*1H
